US07713994B2
4-(2-Ethoxymethyl-pyrrolidin-1-ylmethyl)-phenylamine
Using the same procedure described for the preparation of 2-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester, the title compound is prepared from 1-(4-Bromo-benzyl)-2-ethoxymethyl-pyrrolidine (using the crude product obtained in the previous step) in 47% yield (two steps, based on crude residue, ˜85%).

reactant | 2-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C1=CC=C(C=C1)N | C15H22N2O2
reactant | 1-(4-Bromo-benzyl)-2-ethoxymethyl-pyrrolidine | BrC1=CC=C(CN2C(CCC2)COCC)C=C1 | C14H20BrNO
product | 4-(2-Ethoxymethyl-pyrrolidin-1-ylmethyl)-phenylamine | 47% yield | C(C)OCC1N(CCC1)CC1=CC=C(C=C1)N | C14H22N2O
